US06673800B2
Preparation of 1-Benzhydryl-4-{4-[3-(3,4-dimethoxyphenyl)-4,5-dihydroisoxazol-5-yl]butyl}piperazine
4-[3-(3,4-Dimethoxyphenyl)-4,5-dihydroisoxazol-5-yl]butanal (31.0 mg, 0.111 mmol), 1-(diphenylmethyl)piperazine (25.6 mg, 0.101 mmol), molecular sieve (5 beads) and NaBH(OAc)3 (64.6 mg, 0.308 mmol) were reacted in 3 mL of methylene chloride for about 12 hr. With the following processes the same as in Example 1, 35.7 mg (68.4%) of the target compound was obtained.

reactant | 4-[3-(3,4-Dimethoxyphenyl)-4,5-dihydroisoxazol-5-yl]butanal | 0.111 mmol, 31.0 mg | COC=1C=C(C=CC1OC)C1=NOC(C1)CCCC=O | C15H19NO4
reactant | 1-(diphenylmethyl)piperazine | 0.101 mmol, 25.6 mg | C1(=CC=CC=C1)C(N1CCNCC1)C1=CC=CC=C1 | C17H20N2
reactant | NaBH(OAc)3 | 0.308 mmol, 64.6 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
product | 1-Benzhydryl-4-{4-[3-(3,4-dimethoxyphenyl)-4,5-dihydroisoxazol-5-yl]butyl}piperazine | 35.7 mg, 68.4% | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CCN(CC1)CCCCC1CC(=NO1)C1=CC(=C(C=C1)OC)OC | C32H39N3O3
